US08404856B2
Step 7: 3-chloro-5-({4-methyl-2-oxo-1-[2-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethyl]-1,2-dihydropyridin-3-yl}oxy)benzonitrile (12-7)
3-chloro-5-[(4-methyl-2-oxo-1-{2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethyl}-1,2-dihydropyridin-3-yl)oxy]benzonitrile (11.7 mg, 0.023 mmol) was dissolved in TFA (2 mL) and allowed to stand at room temperature for 1 hour. After this time, MeOH (1 mL) was added and the solvent evaporated in vacuo. The residue was purified on Gilson LC using a Luna reverse phase column (10μ, C18, 250×21.2 mm) and eluting with a gradient of 5-95% ACN/water (0.5% TFA). The desired fractions were combined and the solvent evaporated in vacuo to give the title compound. LRMS (M+1): 405.9.

reactant | 3-chloro-5-[(4-methyl-2-oxo-1-{2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethyl}-1,2-dihydropyridin-3-yl)oxy]benzonitrile | 0.023 mmol, 11.7 mg | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=CC1C)CCC1=NN(C2=NC=CC=C21)C2OCCCC2)=O | C26H24ClN5O3
reactant | MeOH | 1 mL | CO | CH4O
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-chloro-5-({4-methyl-2-oxo-1-[2-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethyl]-1,2-dihydropyridin-3-yl}oxy)benzonitrile | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=CC1C)CCC1=NNC2=NC=CC=C21)=O | C21H16ClN5O2
